US04906343
A solution comprising 15 parts of 2-chloro-1-(4'-methoxyphenyl)-1-propanone and 10 parts of propylene oxide in 500 parts of 10% v/v aqueous acetone was irradiated by means of a 450W mercury vapour lamp for 8 hours. The solvent was removed by distillation and the resulting acid was extracted with 5% w/v aqueous sodium hydroxide. Acidification yielded 9.5 parts of α-(4'-methoxyphenyl)-propionic acid, m.p. 55° C. to 57° C.

reactant | 2-chloro-1-(4'-methoxyphenyl)-1-propanone | ClC(C(=O)C1=CC=C(C=C1)OC)C | C10H11ClO2
reactant | propylene oxide | C1C(C)O1 | C3H6O
reactant | acetone | CC(=O)C | C3H6O
catalyst | mercury | [Hg] | Hg
product | α-(4'-methoxyphenyl)-propionic acid | COC1=CC=C(C=C1)C(C(=O)O)C | C10H12O3
